US06316464B1
To a solution of (2-chloropyridin-3-yl)-[2-(4-fluorophenyl)-1-(pyridin-4-yl)vinyl]amine (6.0 g, 18.5 mmol) and DABCO® (6.2 g, 55 mmol) in dimethylformamide (75 ml) was added bis(triphenylphosphine)palladium(II) chloride (650 mg, 0.926 mmol) and the reaction mixture was heated at 120° C. under an argon atmosphere. After 4 h, dimethylformamide was removed in vacuo and the residue was heated in ethyl acetate/methanol mixture. The product was filtered off to give a green solid which was redissolved in boiling methanol/chloroform mixture and treated with charcoal. The solution was filtered through a pad of Celite and the filtrate was concentrated to give 3-(4-fluorophenyl)-2-(pyridin-4-yl)-1H-pyrrolo[3,2-b]pyridine as a pale yellow solid (5.27 g).

reactant | (2-chloropyridin-3-yl)-[2-(4-fluorophenyl)-1-(pyridin-4-yl)vinyl]amine | 18.5 mmol, 6.0 g | ClC1=NC=CC=C1NC(=CC1=CC=C(C=C1)F)C1=CC=NC=C1 | C18H13ClFN3
reactant | DABCO | C1CN2CCN1CC2 | C6H12N2
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
reactant | charcoal | C | CH4
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.926 mmol, 650 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(4-fluorophenyl)-2-(pyridin-4-yl)-1H-pyrrolo[3,2-b]pyridine | 5.27 g | FC1=CC=C(C=C1)C1=C(NC=2C1=NC=CC2)C2=CC=NC=C2 | C18H12FN3
